US08791134B2
Dibutyl 1-nitrosocyclohexyl phosphate was prepared from cyclohexanone oxime, lead tetraacetate and dibutyl phosphate using conditions of General Method 3. 1H NMR (400 MHz, chloroform-d) δ 4.12-4.21 (1H, m), 4.00 (3H, q, 6.7 Hz), 1.61-1.79 (6H, m), 1.36-1.48 (5H, m), 1.25-1.35 (4H, m), 0.86-0.97 (9H, m).

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | dibutyl phosphate | P(=O)(OCCCC)(OCCCC)[O-]
product | Dibutyl 1-nitrosocyclohexyl phosphate | P(=O)(OCCCC)(OCCCC)OC1(CCCCC1)N=O | C14H28NO5P
